### ISSUE TITLE
Refuted guard conditions do not yield finiteness bounds: the converse of guard refutation

### ISSUE THREAD

**Issue by jessealama** [jessealama/lakatos#206]
A class binder's finiteness comes only from the negation of the constructor's equality guards, and nothing crosses that gap. The bound derivations in `Js/Norm.lean` all start from a numeric range comparison (`float_lt_inf_of_lt`, `float_lt_inf_of_le` and their `-floatInf` twins chain `a < b` with `b < floatInf`), which a class binder never has.

## Repro

The hypotheses a successful `Point.construct` leaves behind, and the bounds every downstream `FloatFacts` lemma wants:

```lean
import ThalesDsl

open ThalesDsl Js Js.Number

example (x : Float)
    (hInf : (Float.beq x (-floatInf) || Float.beq x floatInf) = false)
    (hNan : Number.FloatOps.sameValue x floatNaN = false) :
    -floatInf < x ∧ x < floatInf := by
  grind
```

```
$ lake env lean converse-spike.lean; echo $?
converse-spike.lean:12:2: error: `grind` failed
case grind.1
x : Float
hInf : (x.beq (-floatInf) || x.beq floatInf) = false
hNan : FloatOps.sameValue x floatNaN = false
h_1 : ¬-floatInf < x
⊢ False
[grind] Goal diagnostics
  [facts] Asserted facts
    [prop] -floatInf < x → x.beq (-floatInf) = false
    [prop] x < floatInf → x.beq floatInf = false
    [prop] -floatInf < x → x < floatInf → FloatOps.sameValue x floatNaN = false
1
```

The three facts grind has are the guard-refutation lemmas, and every one of them runs the wrong way: they take bounds to a refuted equality test. The direction a constructor needs is the converse.

Without it a class-binder artifact typechecks and then reports GaveUp — the emission work looks finished and proves nothing.

## What to build

The mirror images of the guard-refutation lemmas, on the same two-layer split: proofs in `FloatFacts`, restatements plus grind patterns in `Js/Norm.lean`.

At the `UnpackedFloat` layer, a non-NaN value not IEEE-equal to an infinity is strictly inside it:

```lean
theorem lt_pos_inf_of_beq_false {u : UnpackedFloat} (hn : u ≠ .notANumber)
    (h : UnpackedFloat.beq u (.infinity .positive) = false) :
    UnpackedFloat.lt u (.infinity .positive) = true := by
  cases u <;>
    simp_all [UnpackedFloat.lt, UnpackedFloat.beq, UnpackedFloat.compare] <;>
    (rename_i s; cases s <;> simp_all [compare])
```

and its `.negative` twin, both lifted to `Float` through the existing `float_beq_unpack` / `float_lt_unpack` bridges.

The NaN direction needs one genuinely new fact — that a value not SameValue-equal to NaN does not unpack to NaN. It goes through `model_pack_unpack` and the fact that `Float` is a single-field structure over `Float.Model`, so NaN payloads are already collapsed:

```lean
theorem unpack_ne_nan_of_sameValue_false {x : Float}
    (h : Number.FloatOps.sameValue x floatNaN = false) :
    x.toModel.unpack ≠ .notANumber := by
  intro hu
  have hm : x.toModel = (floatNaN : Float).toModel := by
    rw [← FloatFacts.model_pack_unpack x.toModel,
      ← FloatFacts.model_pack_unpack (floatNaN : Float).toModel, hu]
    rfl
  have hx : x = floatNaN := congrArg Float.ofModel hm
  simp [Number.FloatOps.sameValue, hx] at h
```

With the three restated on `floatInf`/`floatNaN` and given grind patterns keyed on `Float.beq x floatInf`, `Float.beq x (-floatInf)`, and `Number.FloatOps.sameValue x floatNaN`, the repro above closes under plain `grind`, no explicit lemma list. That was checked against HEAD; grind splits the `||` disjunction itself.

## Notes

Landable now, with no pipeline dependency, the way the non-negativity chain was. The guard-refutation work landed the shared `beq` bridge these build on and explicitly left this direction out of scope.

## Acceptance criteria

- [ ] The repro above proves under plain `grind`
- [ ] Proofs live in `FloatFacts`; `Js/Norm.lean` gets restatements and grind patterns only
- [ ] No axioms and no `sorry`
- [ ] A test pins each new fact on both the `UnpackedFloat` and `Float` layers

**Comment by jessealama** [comment]
Prerequisite of #159.
